US07589088B2
To a stirred solution of methyl acetoacetate (345 mg, 2.97 mmol) and 2,4-dichlorobenzaldehyde (500 mg, 2.86 mmol) in 2-propanol (5 mL) was added AcOH (7 mg, 0.11 mmol) and dimethylamine (0.06 mL, 2M in THF, 0.11 mmol). The reaction was heated to 40° C. for 4 hrs followed by cooling to ambient temperature for 15 hrs. The reaction was concentrated and purified by flash chromatography (silica gel, 30% EtOAc/hexane) to give methyl 2-(2,4-dichlorobenzylidene)-3-oxobutanoate as a mixture of two isomers (colorless oil, 610 mg, 78%).

reactant | methyl acetoacetate | 2.97 mmol, 345 mg | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2,4-dichlorobenzaldehyde | 2.86 mmol, 500 mg | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | AcOH | 0.11 mmol, 7 mg | CC(=O)O | C2H4O2
reactant | dimethylamine | 0.11 mmol, 2M, 0.06 mL | CNC | C2H7N
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
product | methyl 2-(2,4-dichlorobenzylidene)-3-oxobutanoate | ClC1=C(C=C(C(=O)OC)C(C)=O)C=CC(=C1)Cl | C12H10Cl2O3
